US07799805B2
[2-(4-Chloro-3-cyclopropylaminomethyl-phenyl)-ethyl]-ethyl-carbamic acid tert-butyl ester
A mixture of [2-(4-chloro-3-formyl-phenyl)-ethyl]-ethyl-carbamic acid tert-butyl ester (80.1 mg, 0.257 mmol), Et3N (0.054 mL, 0.386 mmol) and cyclopropylamine (0.027 mL, 0.386 mmol) in MeOH (0.86 mL) was heated to reflux for 4 h. The mixture was allowed to cool to rt, and NaBH4 (24.2 mg, 0.642 mmol) was added in portions. The mixture was stirred for 1 h, and aq. sat. NaHCO3 was added. The mixture was extracted with EtOAc several times, and the combined org. extracts were washed with brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (CH2Cl2/MeOH 95:5) yielded the title compound (40 mg, 44%). LC-MS: tR=0.81 min; ES+: 353.22.

reactant | [2-(4-chloro-3-formyl-phenyl)-ethyl]-ethyl-carbamic acid tert-butyl ester | 0.257 mmol, 80.1 mg | C(C)(C)(C)OC(N(CC)CCC1=CC(=C(C=C1)Cl)C=O)=O | C16H22ClNO3
reactant | Et3N | 0.386 mmol, 0.054 mL | CCN(CC)CC | C6H15N
reactant | cyclopropylamine | 0.386 mmol, 0.027 mL | C1(CC1)N | C3H7N
reactant | NaBH4 | 0.642 mmol, 24.2 mg | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 0.86 mL | CO | CH4O
product | [2-(4-Chloro-3-cyclopropylaminomethyl-phenyl)-ethyl]-ethyl-carbamic acid tert-butyl ester | 40 mg, 44% | C(C)(C)(C)OC(N(CC)CCC1=CC(=C(C=C1)Cl)CNC1CC1)=O | C19H29ClN2O2
